US06518265B1
1-[2-(N-Acetyl-4-piperidyl)ethyl]-4-chloro-1H-imidazo[4,5-c]quinoline
To a solution of 0.60 g of 4-chloro-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate in 4 ml of pyridine, 2 ml of acetic anhydride was added, and the mixture was stirred at room temperature for 1 hour. After the reaction, the solvent was evaporated. The residue was added with isopropanol and diisopropyl ether, and the precipitated crystals were collected by filtration, and washed with diisopropyl ether to give 0.45 g of colorless crystals. Recrystallization from a mixture of methylene chloride and diisopropyl ether gave colorless crystals having the melting point of from 183 to 186.5° C.

reactant | 4-chloro-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate | 0.60 g | FC(C(=O)O)(F)F.ClC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCNCC2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[2-(N-Acetyl-4-piperidyl)ethyl]-4-chloro-1H-imidazo[4,5-c]quinoline | 0.45 g | C(C)(=O)N1CCC(CC1)CCN1C=NC=2C(=NC=3C=CC=CC3C21)Cl | C19H21ClN4O
